US08455646B2
Preparation of (3-methylsulfanyl-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C52)
PS-DCC (602 mg, 0.80 mmol, loading: 1.33 mmol/g) is suspended in dry THF (15 mL). (3-Methylsulfanyl-phenylamino)-phenyl-acetic acid hydrochloride (I51) (124 mg, 0.40 mmol), HOBT (123 mg, 0.80 mmol), and (R)-quinuclidin-3-ol (153 mg, 1.20 mmol) are added and the suspension is shaken at RT overnight (16 hours). PS-DCC is filtered off, washed with THF and the filtrate is evaporated. The resulting residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The organic layer is recovered, dried over Na2SO4, filtered and evaporated to afford the title compound as a brown oil (153 mg, quantitative yield, mixture of diastereoisomers).

reactant | DCC | 0.80 mmol, 602 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (3-Methylsulfanyl-phenylamino)-phenyl-acetic acid hydrochloride | 0.40 mmol, 124 mg | Cl.CSC=1C=C(C=CC1)NC(C(=O)O)C1=CC=CC=C1
reactant | HOBT | 0.80 mmol, 123 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.20 mmol, 153 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3-methylsulfanyl-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 153 mg, quantitative yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=CC(=CC=C2)SC)=O | C22H26N2O2S
